2164-02-07 07:38:00 Physician Resident Progress Note
Chief Complaint: Voluntary admission for detoxification.
   24 Hour Events:
   -Received 20mg IV diazepem, and 40mg PO diazepem overnight per CIWA
   -Received 6mg morphine overnight
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2164-2-7**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Heparin Sodium - [**2164-2-6**] 11:00 PM
   Diazepam (Valium) - [**2164-2-7**] 06:00 AM
   Morphine Sulfate - [**2164-2-7**] 06:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain, Nausea, No(t) Emesis, No(t) Diarrhea,
   No(t) Constipation
   Flowsheet Data as of  [**2164-2-7**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 105 (99 - 118) bpm
   BP: 144/103(112) {133/90(101) - 152/123(127)} mmHg
   RR: 22 (16 - 30) insp/min
   SpO2: 94%
             Total In:
                                                                  3,985 mL
                                                                    927 mL
   PO:
                                                                    120 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    565 mL
                                                                    897 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    250 mL
   Urine:
                                                                    600 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,385 mL
                                                                    677 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender:
   Diffusely tender no rebound, no guarding, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   118 K/uL
   11.9 g/dL
   131 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.7 mEq/L
   6 mg/dL
   100 mEq/L
   133 mEq/L
   34.3 %
   5.8 K/uL
        [image002.jpg]
                             [**2164-2-6**]  09:04 PM
                             [**2164-2-7**]  05:25 AM
   WBC
   5.5
   5.8
   Hct
   37.9
   34.3
   Plt
   143
   118
   Cr
   0.6
   0.5
   Glucose
   105
   131
   Other labs: PT / PTT / INR:14.7/150.0/1.3, ALT / AST:98/238, Alk Phos /
   T Bili:131/4.3, Amylase / Lipase:115/180, Differential-Neuts:57.3 %,
   Lymph:34.1 %, Mono:7.0 %, Eos:0.8 %, Lactic Acid:1.8 mmol/L,
   Albumin:4.1 g/dL, LDH:340 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.1
   mg/dL
   Imaging: CT abdomen with contrast [**2164-2-6**]:
   Mild peripancreatic stranding in the region of pancreatic head,
   suggesting
   mild acute pancreatitis
   Potential focal segmental right gonadal vein thrombosis.
   Microbiology: Blood cx [**2164-2-6**], [**2164-2-7**] pending x 2
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HEPATITIS, CHRONIC VIRAL
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ALCOHOL ABUSE
 PANCREATITIS, ACUTE
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 ANEMIA, ACUTE
 THROMBOCYTOPENIA, ACUTE
   Assessment and Plan
   40 year old woman with a h/o alcoholism c/b DTs/seizures 2 years ago,
   polysubstance abuse including IV heroin, cocaine, crack (last use 2
   years ago), heroin inhalation (last use 2 days ago), hep C, presents
   for voluntary admission for detox.
   .
   # ETOH Withdrawal-given h/o severe DTs/seizures observation in ICU is
   reasonable. Pt requiring more valium however stable overnight.
   Diaphoresis, persistent tachycardia, anxiety, and tremors point to
   insufficiently controlled withdrawl symptoms.
   -Increasing valium from Valium 10mg PO Q2H to Valium 10mg PO Q1H for
   CIWA>10; hold for CIWA<10 or signs of intoxication, low threshold to
   increase dose or switch to IV if pt worsens scores or becomes
   hemodynamically unstable.
   -Continue MVI, Thiamine, Folate
   -Continue Aggressive IVF
   -Replete lytes with close attention to K and Mg
   -SW consult today
   .
   # Ovarian vein thrombosis: Pt at risk given her recent birth and recent
   C-section.
   -F/u  blood cx
   -Continue heparin gtt
   -Continue amp-sulbactam 3gm IV Q6H
   -Obtain MRV today to confirm dx, if negative, would DC abx and heparin.
   If positive, pt would require at least 2 weeks of IV abx and
   anticoagulation.
   .
   # Abdominal pain: Elevated Lipase/Pancreatitis and CT abdomen
   consistent with mild pancreatitis with a Ransen score of 3. However,
   her abdominal pain is lower quadrant. She has other potential reasons
   for pain including heroin withdrawl, biliary disease (although per rads
   no e/o biliary disease on CT), and most intriguing ovarian vein
   thrombosis can p/w lower abdominal pain, N/V.  RUQ negative for e/o
   biliary disease, portal vein thrombosis, but did show e/o early
   cirrhosis.
   -IVF
   -Slowly advance diet starting with clears
   -Pain control with morphine 2-4mg IV Q4H PRN for now, will evaluate
   switching to methadone for more long acting pain based on her prior
   doses
   -F/u U/A with cx
   .
   # Acute anemia: Likely secondary to hemodilution given pt was
   significantly dry. Consider worsening pancreatitis. Consider alcoholic
   gastritis.
   -Active type and screen
   -Guiac all stools
   -Recheck HCT at 1700
   -Starting Pantoprazole 40mg PO Daily
   .
   # Acute thrombocytopenia: Again likely secondary to hemodilution.
   Because she was likely dehydrated this admission we are seeing her true
   values which are low. Chronic thrombocytopenia likely secondary to HCV
   cirrhosis.
   -Recheck platelets at 1700, with low threshold to stop heparin
   .
   # Hep C: Unknown extent.
   -Check viral load
   -Obtaining records from [**Hospital1 587**]
   .
   # Polysubstance abuse:
   -SW consult
   -Check HIV for high risk behavior
   .
   # FEN: NPO, IVF, replete electrolytes
   # Prophylaxis: heparin gtt
   # Access: 2 peripherals
   # Communication: Patient
   # Code:  Confirmed Full (discussed with patient)
   # Disposition: Likely called out to floor tomorrow if stable overnight.
   .
   [**First Name11 (Name Pattern1) 82**] [**Last Name (NamePattern4) 11267**], MD
   PGY-1, [**Pager number 11268**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-2-6**] 08:16 PM
   22 Gauge - [**2164-2-7**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. Briefly, pt is a 40F
   HCV, PSA who presents for detox from  ETOH and opiate abuse.  Underwent
   CT for abd pain which showed  panacreatic stranding s/o c pancreatitis
   and ? of ovarian v clot seen with unasyn and heparin started.
   Tm 37.6  HR 100  BP 140/60  RR 22  sat 94% RA.  Obese F,  alert and
   oriented, appropriate, Tremulous. CTA b, tachy s1 s2, no m,  tender
   diffusely, no r/g + BS, no edema
   Labs: wbc 5.8, hct 34, plt 118, cr 0.5, lipase 180, inr 1.3, uHCG neg,
   lfts decreasing X t bili now 4.3. Bl/urine cx pending. Cxr clear, CT
   reviewed
   Agree with plan to manage etoh w/d with valium per Q 1hr CIWA, continue
   thiamine, folate, MVI, fluids.  SW/addiction following.  Abd pain
   likely multifactorial with evidence of pancreatitis, probable ovarian
   v. thrombus and component of probable opiod w/d.  Would restart
   methadone and then slowly taper rather than using frequent prn
   morphine. Given multiple RFs will check HIV status. For pancreatitis,
   advancing diet to clears,  trend lipase and LFTS, pain control.
   For rising t bili-- f/u ruq gb US results.  For suspected ovarian v
   clot, will continue unasyn and heparin drip, f/u cx data and obtain MRV
   to better assess.  Anemia likely dilutional but on hep gtt.  Repeat
   hct, keep t and c, heme check stool.  Remainder as noted in resident
   note.  Continue to monitor in ICU for management of etoh w/d
   Time spent: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2164-2-7**] 02:15 PM ------

2164-02-07 07:38:00 Physician Resident Progress Note
Chief Complaint: Voluntary admission for detoxification.
   24 Hour Events:
   -Received 20mg IV diazepem, and 40mg PO diazepem overnight per CIWA
   -Received 6mg morphine overnight
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2164-2-7**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Heparin Sodium - [**2164-2-6**] 11:00 PM
   Diazepam (Valium) - [**2164-2-7**] 06:00 AM
   Morphine Sulfate - [**2164-2-7**] 06:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain, Nausea, No(t) Emesis, No(t) Diarrhea,
   No(t) Constipation
   Flowsheet Data as of  [**2164-2-7**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 105 (99 - 118) bpm
   BP: 144/103(112) {133/90(101) - 152/123(127)} mmHg
   RR: 22 (16 - 30) insp/min
   SpO2: 94%
             Total In:
                                                                  3,985 mL
                                                                    927 mL
   PO:
                                                                    120 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    565 mL
                                                                    897 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    250 mL
   Urine:
                                                                    600 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,385 mL
                                                                    677 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender:
   Diffusely tender no rebound, no guarding, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   118 K/uL
   11.9 g/dL
   131 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.7 mEq/L
   6 mg/dL
   100 mEq/L
   133 mEq/L
   34.3 %
   5.8 K/uL
        [image002.jpg]
                             [**2164-2-6**]  09:04 PM
                             [**2164-2-7**]  05:25 AM
   WBC
   5.5
   5.8
   Hct
   37.9
   34.3
   Plt
   143
   118
   Cr
   0.6
   0.5
   Glucose
   105
   131
   Other labs: PT / PTT / INR:14.7/150.0/1.3, ALT / AST:98/238, Alk Phos /
   T Bili:131/4.3, Amylase / Lipase:115/180, Differential-Neuts:57.3 %,
   Lymph:34.1 %, Mono:7.0 %, Eos:0.8 %, Lactic Acid:1.8 mmol/L,
   Albumin:4.1 g/dL, LDH:340 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.1
   mg/dL
   Imaging: CT abdomen with contrast [**2164-2-6**]:
   Mild peripancreatic stranding in the region of pancreatic head,
   suggesting
   mild acute pancreatitis
   Potential focal segmental right gonadal vein thrombosis.
   Microbiology: Blood cx [**2164-2-6**], [**2164-2-7**] pending x 2
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HEPATITIS, CHRONIC VIRAL
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ALCOHOL ABUSE
 PANCREATITIS, ACUTE
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-2-6**] 08:16 PM
   22 Gauge - [**2164-2-7**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-07 07:38:00 Physician Resident Progress Note
Chief Complaint: Voluntary admission for detoxification.
   24 Hour Events:
   -Received 20mg IV diazepem, and 40mg PO diazepem overnight per CIWA
   -Received 6mg morphine overnight
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2164-2-7**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Heparin Sodium - [**2164-2-6**] 11:00 PM
   Diazepam (Valium) - [**2164-2-7**] 06:00 AM
   Morphine Sulfate - [**2164-2-7**] 06:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain, Nausea, No(t) Emesis, No(t) Diarrhea,
   No(t) Constipation
   Flowsheet Data as of  [**2164-2-7**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 105 (99 - 118) bpm
   BP: 144/103(112) {133/90(101) - 152/123(127)} mmHg
   RR: 22 (16 - 30) insp/min
   SpO2: 94%
             Total In:
                                                                  3,985 mL
                                                                    927 mL
   PO:
                                                                    120 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    565 mL
                                                                    897 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    250 mL
   Urine:
                                                                    600 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,385 mL
                                                                    677 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender:
   Diffusely tender no rebound, no guarding, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   118 K/uL
   11.9 g/dL
   131 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.7 mEq/L
   6 mg/dL
   100 mEq/L
   133 mEq/L
   34.3 %
   5.8 K/uL
        [image002.jpg]
                             [**2164-2-6**]  09:04 PM
                             [**2164-2-7**]  05:25 AM
   WBC
   5.5
   5.8
   Hct
   37.9
   34.3
   Plt
   143
   118
   Cr
   0.6
   0.5
   Glucose
   105
   131
   Other labs: PT / PTT / INR:14.7/150.0/1.3, ALT / AST:98/238, Alk Phos /
   T Bili:131/4.3, Amylase / Lipase:115/180, Differential-Neuts:57.3 %,
   Lymph:34.1 %, Mono:7.0 %, Eos:0.8 %, Lactic Acid:1.8 mmol/L,
   Albumin:4.1 g/dL, LDH:340 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.1
   mg/dL
   Imaging: CT abdomen with contrast [**2164-2-6**]:
   Mild peripancreatic stranding in the region of pancreatic head,
   suggesting
   mild acute pancreatitis
   Potential focal segmental right gonadal vein thrombosis.
   Microbiology: Blood cx [**2164-2-6**], [**2164-2-7**] pending x 2
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HEPATITIS, CHRONIC VIRAL
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ALCOHOL ABUSE
 PANCREATITIS, ACUTE
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
   Assessment and Plan
   40 year old woman with a h/o alcoholism c/b DTs/seizures 2 years ago,
   polysubstance abuse including IV heroin, cocaine, crack (last use 2
   years ago), heroin inhalation (last use 2 days ago), hep C, presents
   for voluntary admission for detox.
   .
   # ETOH Withdrawal-given h/o severe DTs/seizures observation in ICU is
   reasonable. Pt requiring more valium however stable overnight.
   Diaphoresis, persistent tachycardia, anxiety, and tremors point to
   insufficiently controlled withdrawl symptoms.
   -Increasing valium from Valium 10mg PO Q2H to Valium 10mg PO Q1H for
   CIWA>10; hold for CIWA<10 or signs of intoxication
   -Likely call out to the floor today
   -Continue MVI, Thiamine, Folate
   -Check osmolar gap- add on serum osm
   -Continue Aggressive IVF
   -Replete lytes with close attention to K and Mg
   -SW consult today
   .
   # Ovarian vein thrombosis: Pt at risk given her recent birth and recent
   C-section.
   -Check blood cx
   -Treat with heparin gtt
   -Teat with amp-sulbactam 3gm IV Q6H
   -Obtain MRV today  to confirm dx, if negative, would DC abx and
   heparin.
   .
   # Abdominal pain: Elevated Lipase/Pancreatitis and CT abdomen
   consistent with mild pancreatitis with a Ransen score of 3. However,
   her abdominal pain is lower quadrant. She has other potential reasons
   for pain including heroin withdrawl, biliary disease (although per rads
   no e/o biliary disease on CT), and most intriguing ovarian vein
   thrombosis can p/w lower abdominal pain, N/V.
   -IVF
   -NPO
   -Pain control with morphine 2-4mg IV Q4H PRN
   -RUQ U/S to look for gallstones and cirrhosis
   -Check U/A with cx and bHCG
   .
   # Hep C: Unknown extent.
   -Check viral load
   -Obtaining records from [**Hospital1 587**]
   .
   # Polysubstance abuse:
   -SW consult
   -Check HIV for high risk behavior
   .
   # FEN: NPO, IVF, replete electrolytes
   # Prophylaxis: heparin gtt
   # Access: peripherals
   # Communication: Patient
   # Code:  Confirmed Full (discussed with patient)
   # Disposition: Likely called out to floor tomorrow if stable overnight.
   .
   [**First Name11 (Name Pattern1) 82**] [**Last Name (NamePattern4) 11267**], MD
   PGY-1, [**Pager number 11268**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-2-6**] 08:16 PM
   22 Gauge - [**2164-2-7**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-07 07:38:00 Physician Resident Progress Note
Chief Complaint: Voluntary admission for detoxification.
   24 Hour Events:
   -Received 20mg IV diazepem, and 40mg PO diazepem overnight per CIWA
   -Received 6mg morphine overnight
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2164-2-7**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Heparin Sodium - [**2164-2-6**] 11:00 PM
   Diazepam (Valium) - [**2164-2-7**] 06:00 AM
   Morphine Sulfate - [**2164-2-7**] 06:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain, Nausea, No(t) Emesis, No(t) Diarrhea,
   No(t) Constipation
   Flowsheet Data as of  [**2164-2-7**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 105 (99 - 118) bpm
   BP: 144/103(112) {133/90(101) - 152/123(127)} mmHg
   RR: 22 (16 - 30) insp/min
   SpO2: 94%
             Total In:
                                                                  3,985 mL
                                                                    927 mL
   PO:
                                                                    120 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    565 mL
                                                                    897 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    250 mL
   Urine:
                                                                    600 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,385 mL
                                                                    677 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender:
   Diffusely tender no rebound, no guarding, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   118 K/uL
   11.9 g/dL
   131 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.7 mEq/L
   6 mg/dL
   100 mEq/L
   133 mEq/L
   34.3 %
   5.8 K/uL
        [image002.jpg]
                             [**2164-2-6**]  09:04 PM
                             [**2164-2-7**]  05:25 AM
   WBC
   5.5
   5.8
   Hct
   37.9
   34.3
   Plt
   143
   118
   Cr
   0.6
   0.5
   Glucose
   105
   131
   Other labs: PT / PTT / INR:14.7/150.0/1.3, ALT / AST:98/238, Alk Phos /
   T Bili:131/4.3, Amylase / Lipase:115/180, Differential-Neuts:57.3 %,
   Lymph:34.1 %, Mono:7.0 %, Eos:0.8 %, Lactic Acid:1.8 mmol/L,
   Albumin:4.1 g/dL, LDH:340 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.1
   mg/dL
   Imaging: CT abdomen with contrast [**2164-2-6**]:
   Mild peripancreatic stranding in the region of pancreatic head,
   suggesting
   mild acute pancreatitis
   Potential focal segmental right gonadal vein thrombosis.
   Microbiology: Blood cx [**2164-2-6**], [**2164-2-7**] pending x 2
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HEPATITIS, CHRONIC VIRAL
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ALCOHOL ABUSE
 PANCREATITIS, ACUTE
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 ANEMIA, ACUTE
 THROMBOCYTOPENIA, ACUTE
   Assessment and Plan
   40 year old woman with a h/o alcoholism c/b DTs/seizures 2 years ago,
   polysubstance abuse including IV heroin, cocaine, crack (last use 2
   years ago), heroin inhalation (last use 2 days ago), hep C, presents
   for voluntary admission for detox.
   .
   # ETOH Withdrawal-given h/o severe DTs/seizures observation in ICU is
   reasonable. Pt requiring more valium however stable overnight.
   Diaphoresis, persistent tachycardia, anxiety, and tremors point to
   insufficiently controlled withdrawl symptoms.
   -Increasing valium from Valium 10mg PO Q2H to Valium 10mg PO Q1H for
   CIWA>10; hold for CIWA<10 or signs of intoxication, low threshold to
   increase dose or switch to IV if pt worsens scores or becomes
   hemodynamically unstable.
   -Continue MVI, Thiamine, Folate
   -Continue Aggressive IVF
   -Replete lytes with close attention to K and Mg
   -SW consult today
   .
   # Ovarian vein thrombosis: Pt at risk given her recent birth and recent
   C-section.
   -F/u  blood cx
   -Continue heparin gtt
   -Continue amp-sulbactam 3gm IV Q6H
   -Obtain MRV today to confirm dx, if negative, would DC abx and heparin.
   If positive, pt would require at least 2 weeks of IV abx and
   anticoagulation.
   .
   # Abdominal pain: Elevated Lipase/Pancreatitis and CT abdomen
   consistent with mild pancreatitis with a Ransen score of 3. However,
   her abdominal pain is lower quadrant. She has other potential reasons
   for pain including heroin withdrawl, biliary disease (although per rads
   no e/o biliary disease on CT), and most intriguing ovarian vein
   thrombosis can p/w lower abdominal pain, N/V.  RUQ negative for e/o
   biliary disease, portal vein thrombosis, but did show e/o early
   cirrhosis.
   -IVF
   -Slowly advance diet starting with clears
   -Pain control with morphine 2-4mg IV Q4H PRN for now, will evaluate
   switching to methadone for more long acting pain based on her prior
   doses
   -F/u U/A with cx
   .
   # Acute anemia: Likely secondary to hemodilution given pt was
   significantly dry. Consider worsening pancreatitis. Consider alcoholic
   gastritis.
   -Active type and screen
   -Guiac all stools
   -Recheck HCT at 1700
   -Starting Pantoprazole 40mg PO Daily
   .
   # Acute thrombocytopenia: Again likely secondary to hemodilution.
   Because she was likely dehydrated this admission we are seeing her true
   values which are low. Chronic thrombocytopenia likely secondary to HCV
   cirrhosis.
   -Recheck platelets at 1700, with low threshold to stop heparin
   .
   # Hep C: Unknown extent.
   -Check viral load
   -Obtaining records from [**Hospital1 587**]
   .
   # Polysubstance abuse:
   -SW consult
   -Check HIV for high risk behavior
   .
   # FEN: NPO, IVF, replete electrolytes
   # Prophylaxis: heparin gtt
   # Access: 2 peripherals
   # Communication: Patient
   # Code:  Confirmed Full (discussed with patient)
   # Disposition: Likely called out to floor tomorrow if stable overnight.
   .
   [**First Name11 (Name Pattern1) 82**] [**Last Name (NamePattern4) 11267**], MD
   PGY-1, [**Pager number 11268**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-2-6**] 08:16 PM
   22 Gauge - [**2164-2-7**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-08 07:55:00 Physician Resident Progress Note
Chief Complaint: Voluntary admission for alcohol detoxification
   24 Hour Events:
 ULTRASOUND - At [**2164-2-7**] 08:17 AM
   gall bladder and liver
 MAGNETIC RESONANCE IMAGING - At [**2164-2-7**] 12:30 PM
   [**2164-2-7**]:
   -CIWA increased to Q4
   -decreased morphine frequncy
   -all imaging shows pelvic clot, fatty liver, mild pancreatitis
   -started methadone 5 [**Hospital1 **] (can increase as needed)
   -treating for possible septic pelvic thrombophlebitis with unasyn and
   heparin
   -hypertensive likely in setting of withdrawal. monitoring for now
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2164-2-7**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-7**] 12:11 PM
   Diazepam (Valium) - [**2164-2-7**] 05:58 PM
   Morphine Sulfate - [**2164-2-8**] 01:30 AM
   Lovenox 80mg SC Q12H
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Diarrhea
   Flowsheet Data as of  [**2164-2-8**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 110 (88 - 117) bpm
   BP: 143/68(86) {123/68(86) - 156/114(125)} mmHg
   RR: 20 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,376 mL
                                                                  1,160 mL
   PO:
                                                                    680 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  3,696 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  3,250 mL
                                                                    850 mL
   Urine:
                                                                  3,250 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,126 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General: Alert, oriented x3, anxious, no longer diaphoretic, less
   tremulous
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP difficult to assess given habitus
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Tachycardic, regular rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen:  soft, diffuse mild  tenderness to palpation, obese,
   non-distended, bowel sounds present, no rebound tenderness or guarding,
   no organomegaly.
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   112 K/uL
   11.4 g/dL
   126 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.1 mEq/L
   6 mg/dL
   102 mEq/L
   132 mEq/L
   34.2 %
   3.4 K/uL
        [image002.jpg]
                             [**2164-2-6**]  09:04 PM
                             [**2164-2-7**]  05:25 AM
                             [**2164-2-7**]  02:18 PM
                             [**2164-2-8**]  05:35 AM
   WBC
   5.5
   5.8
   4.4
   3.4
   Hct
   37.9
   34.3
   35.8
   34.2
   Plt
   143
   118
   112
   Cr
   0.6
   0.5
   0.5
   Glucose
   105
   131
   126
   Other labs: PT / PTT / INR:14.2/64.0/1.2, ALT / AST:84/168, Alk Phos /
   T Bili:116/5.0, Amylase / Lipase:115/144, Differential-Neuts:48.5 %,
   Lymph:42.6 %, Mono:5.8 %, Eos:2.5 %, Lactic Acid:1.8 mmol/L,
   Albumin:4.1 g/dL, LDH:293 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.0
   mg/dL
   Imaging: MRV [**2164-2-7**]:
   Short segment right inferior gonadal vein thrombus. Normal appearance
   and flow
   in the left gonadal vein. The findings were discussed with Dr [**First Name8 (NamePattern2) 443**]
   [**Last Name (NamePattern1) 1499**] by
   Dr [**Last Name (STitle) 11311**] at 5:30 pm on [**2164-2-7**].
   Microbiology: HCV Viral Load [**2164-2-7**]: 2,900,000
   Blood and urine cx from [**2164-2-6**] pending
   Assessment and Plan
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ALCOHOL ABUSE
 PANCREATITIS, ACUTE
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 HEPATITIS, CHRONIC VIRAL
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Assessment and Plan
   40 year old woman with a h/o alcoholism c/b DTs/seizures 2 years ago,
   polysubstance abuse including IV heroin, cocaine, crack (last use 2
   years ago), heroin inhalation (last use 2 days ago), hep C, presents
   for voluntary admission for detox.
   .
   # ETOH Withdrawal-given h/o severe DTs/seizures observation in ICU is
   reasonable. Pt improving significantly, currently requiring no diazepam
   yet this morning. Pressures trending towards normotension, still some
   tachycardia in low 100s. Much less tremulous, less anxious, no longer
   diaphoretic.
   -Continue  valium 10mg PO Q4H.
   -Continue MVI, Thiamine, Folate
   -Replete lytes with close attention to K and Mg
   -SW recs, appreciate their input
   .
   # Ovarian vein thrombosis: Confirmed with MRV. Pt at risk given her
   recent birth and recent C-section.
   -F/u  blood cx
   -DC heparin gtt
   -START lovenox at 80mg SC Q12H
   -Continue amp-sulbactam 3gm IV Q6H
   -Pt will need treatment for 2 weeks
   .
   # Abdominal pain: Improving. Likely multifactorial with a combination
   of DVT, pancreatitis, and opiate withdrawl. RUQ negative for e/o
   biliary disease, portal vein thrombosis, but did show e/o early
   cirrhosis. Pt tolerating clears.
   -Continue to advance diet starting with clears
   -Continue methadone 5mg PO BID, which seems to be helping her sx as
   well
   -morphine 2mg IV Q4H breakthrough pain
   -F/u U/A and urine cx
   .
   # anemia: Pt likely with a chronic anemia secondary to untreated HCV.
   GI bleed unlikely, however, giver her likely significant liver disease
   will continue to monitor for signs of GI bleed and cont PPI.
   -Active type and screen
   -Guiac all stools
   -Continue Pantoprazole 40mg PO Daily
   .
   # thrombocytopenia: Likely chronic thrombocytopenia secondary to HCV
   cirrhosis.
   -Monitor
   .
   # Hep C: Uncontrolled with VL of 2,900,000.
   -Waiting for records from [**Hospital1 587**]
   -Pt needs outpatient GI/liver follow up.
   .
   # Polysubstance abuse: HIV negative.
   -SW recs
   .
   # FEN: clear to full liquids diet, replete electrolytes
   # Prophylaxis: lovenox, PPI
   # Access: 2 peripherals
   # Communication: Patient
   # Code:  Confirmed Full (discussed with patient)
   # Disposition: Will be called out to the floor today
   .
   [**First Name11 (Name Pattern1) 82**] [**Last Name (NamePattern4) 11267**], MD
   PGY-1, [**Pager number 11268**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-2-6**] 08:16 PM
   22 Gauge - [**2164-2-7**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-08 07:55:00 Physician Resident Progress Note
Chief Complaint: Voluntary admission for alcohol detoxification
   24 Hour Events:
 ULTRASOUND - At [**2164-2-7**] 08:17 AM
   gall bladder and liver
 MAGNETIC RESONANCE IMAGING - At [**2164-2-7**] 12:30 PM
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2164-2-7**] 10:00 PM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-7**] 12:11 PM
   Diazepam (Valium) - [**2164-2-7**] 05:58 PM
   Morphine Sulfate - [**2164-2-8**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Diarrhea
   Flowsheet Data as of  [**2164-2-8**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 110 (88 - 117) bpm
   BP: 143/68(86) {123/68(86) - 156/114(125)} mmHg
   RR: 20 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,376 mL
                                                                  1,160 mL
   PO:
                                                                    680 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  3,696 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  3,250 mL
                                                                    850 mL
   Urine:
                                                                  3,250 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,126 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   112 K/uL
   11.4 g/dL
   126 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.1 mEq/L
   6 mg/dL
   102 mEq/L
   132 mEq/L
   34.2 %
   3.4 K/uL
        [image002.jpg]
                             [**2164-2-6**]  09:04 PM
                             [**2164-2-7**]  05:25 AM
                             [**2164-2-7**]  02:18 PM
                             [**2164-2-8**]  05:35 AM
   WBC
   5.5
   5.8
   4.4
   3.4
   Hct
   37.9
   34.3
   35.8
   34.2
   Plt
   143
   118
   112
   Cr
   0.6
   0.5
   0.5
   Glucose
   105
   131
   126
   Other labs: PT / PTT / INR:14.2/64.0/1.2, ALT / AST:84/168, Alk Phos /
   T Bili:116/5.0, Amylase / Lipase:115/144, Differential-Neuts:48.5 %,
   Lymph:42.6 %, Mono:5.8 %, Eos:2.5 %, Lactic Acid:1.8 mmol/L,
   Albumin:4.1 g/dL, LDH:293 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.0
   mg/dL
   Imaging: MRV [**2164-2-7**]:
   Short segment right inferior gonadal vein thrombus. Normal appearance
   and flow
   in the left gonadal vein. The findings were discussed with Dr [**First Name8 (NamePattern2) 443**]
   [**Last Name (NamePattern1) 1499**] by
   Dr [**Last Name (STitle) 11311**] at 5:30 pm on [**2164-2-7**].
   Microbiology: HCV Viral Load [**2164-2-7**]: 2,900,000
   Blood and urine cx from [**2164-2-6**] pending
   Assessment and Plan
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HEPATITIS, CHRONIC VIRAL
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ALCOHOL ABUSE
 PANCREATITIS, ACUTE
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-2-6**] 08:16 PM
   22 Gauge - [**2164-2-7**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-08 07:55:00 Physician Resident Progress Note
Chief Complaint: Voluntary admission for alcohol detoxification
   24 Hour Events:
 ULTRASOUND - At [**2164-2-7**] 08:17 AM
   gall bladder and liver
 MAGNETIC RESONANCE IMAGING - At [**2164-2-7**] 12:30 PM
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2164-2-7**] 10:00 PM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-7**] 12:11 PM
   Diazepam (Valium) - [**2164-2-7**] 05:58 PM
   Morphine Sulfate - [**2164-2-8**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Diarrhea
   Flowsheet Data as of  [**2164-2-8**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 110 (88 - 117) bpm
   BP: 143/68(86) {123/68(86) - 156/114(125)} mmHg
   RR: 20 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,376 mL
                                                                  1,160 mL
   PO:
                                                                    680 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  3,696 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  3,250 mL
                                                                    850 mL
   Urine:
                                                                  3,250 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,126 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   112 K/uL
   11.4 g/dL
   126 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.1 mEq/L
   6 mg/dL
   102 mEq/L
   132 mEq/L
   34.2 %
   3.4 K/uL
        [image002.jpg]
                             [**2164-2-6**]  09:04 PM
                             [**2164-2-7**]  05:25 AM
                             [**2164-2-7**]  02:18 PM
                             [**2164-2-8**]  05:35 AM
   WBC
   5.5
   5.8
   4.4
   3.4
   Hct
   37.9
   34.3
   35.8
   34.2
   Plt
   143
   118
   112
   Cr
   0.6
   0.5
   0.5
   Glucose
   105
   131
   126
   Other labs: PT / PTT / INR:14.2/64.0/1.2, ALT / AST:84/168, Alk Phos /
   T Bili:116/5.0, Amylase / Lipase:115/144, Differential-Neuts:48.5 %,
   Lymph:42.6 %, Mono:5.8 %, Eos:2.5 %, Lactic Acid:1.8 mmol/L,
   Albumin:4.1 g/dL, LDH:293 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.0
   mg/dL
   Imaging: MRV [**2164-2-7**]:
   Short segment right inferior gonadal vein thrombus. Normal appearance
   and flow
   in the left gonadal vein. The findings were discussed with Dr [**First Name8 (NamePattern2) 443**]
   [**Last Name (NamePattern1) 1499**] by
   Dr [**Last Name (STitle) 11311**] at 5:30 pm on [**2164-2-7**].
   Microbiology: HCV Viral Load [**2164-2-7**]: 2,900,000
   Blood and urine cx from [**2164-2-6**] pending
   Assessment and Plan
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HEPATITIS, CHRONIC VIRAL
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ALCOHOL ABUSE
 PANCREATITIS, ACUTE
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HEPATITIS, CHRONIC VIRAL
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ALCOHOL ABUSE
 PANCREATITIS, ACUTE
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 ANEMIA, ACUTE
 THROMBOCYTOPENIA, ACUTE
   Assessment and Plan
   40 year old woman with a h/o alcoholism c/b DTs/seizures 2 years ago,
   polysubstance abuse including IV heroin, cocaine, crack (last use 2
   years ago), heroin inhalation (last use 2 days ago), hep C, presents
   for voluntary admission for detox.
   .
   # ETOH Withdrawal-given h/o severe DTs/seizures observation in ICU is
   reasonable. Pt requiring more valium however stable overnight.
   Diaphoresis, persistent tachycardia, anxiety, and tremors point to
   insufficiently controlled withdrawl symptoms.
   -Increasing valium from Valium 10mg PO Q2H to Valium 10mg PO Q1H for
   CIWA>10; hold for CIWA<10 or signs of intoxication, low threshold to
   increase dose or switch to IV if pt worsens scores or becomes
   hemodynamically unstable.
   -Continue MVI, Thiamine, Folate
   -Continue Aggressive IVF
   -Replete lytes with close attention to K and Mg
   -SW consult today
   .
   # Ovarian vein thrombosis: Pt at risk given her recent birth and recent
   C-section.
   -F/u  blood cx
   -Continue heparin gtt
   -Continue amp-sulbactam 3gm IV Q6H
   -Obtain MRV today to confirm dx, if negative, would DC abx and heparin.
   If positive, pt would require at least 2 weeks of IV abx and
   anticoagulation.
   .
   # Abdominal pain: Elevated Lipase/Pancreatitis and CT abdomen
   consistent with mild pancreatitis with a Ransen score of 3. However,
   her abdominal pain is lower quadrant. She has other potential reasons
   for pain including heroin withdrawl, biliary disease (although per rads
   no e/o biliary disease on CT), and most intriguing ovarian vein
   thrombosis can p/w lower abdominal pain, N/V.  RUQ negative for e/o
   biliary disease, portal vein thrombosis, but did show e/o early
   cirrhosis.
   -IVF
   -Slowly advance diet starting with clears
   -Pain control with morphine 2-4mg IV Q4H PRN for now, will evaluate
   switching to methadone for more long acting pain based on her prior
   doses
   -F/u U/A with cx
   .
   # Acute anemia: Likely secondary to hemodilution given pt was
   significantly dry. Consider worsening pancreatitis. Consider alcoholic
   gastritis.
   -Active type and screen
   -Guiac all stools
   -Recheck HCT at 1700
   -Starting Pantoprazole 40mg PO Daily
   .
   # Acute thrombocytopenia: Again likely secondary to hemodilution.
   Because she was likely dehydrated this admission we are seeing her true
   values which are low. Chronic thrombocytopenia likely secondary to HCV
   cirrhosis.
   -Recheck platelets at 1700, with low threshold to stop heparin
   .
   # Hep C: Unknown extent.
   -Check viral load
   -Obtaining records from [**Hospital1 587**]
   .
   # Polysubstance abuse:
   -SW consult
   -Check HIV for high risk behavior
   .
   # FEN: NPO, IVF, replete electrolytes
   # Prophylaxis: heparin gtt
   # Access: 2 peripherals
   # Communication: Patient
   # Code:  Confirmed Full (discussed with patient)
   # Disposition: Likely called out to floor tomorrow if stable overnight.
   .
   [**First Name11 (Name Pattern1) 82**] [**Last Name (NamePattern4) 11267**], MD
   PGY-1, [**Pager number 11268**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-2-6**] 08:16 PM
   22 Gauge - [**2164-2-7**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-08 07:55:00 Physician Resident Progress Note
Chief Complaint: Voluntary admission for alcohol detoxification
   24 Hour Events:
 ULTRASOUND - At [**2164-2-7**] 08:17 AM
   gall bladder and liver
 MAGNETIC RESONANCE IMAGING - At [**2164-2-7**] 12:30 PM
   [**2164-2-7**]:
   -CIWA increased to Q4
   -decreased morphine frequncy
   -all imaging shows pelvic clot, fatty liver, mild pancreatitis
   -started methadone 5 [**Hospital1 **] (can increase as needed)
   -treating for possible septic pelvic thrombophlebitis with unasyn and
   heparin
   -hypertensive likely in setting of withdrawal. monitoring for now
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2164-2-7**] 10:00 PM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-7**] 12:11 PM
   Diazepam (Valium) - [**2164-2-7**] 05:58 PM
   Morphine Sulfate - [**2164-2-8**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Diarrhea
   Flowsheet Data as of  [**2164-2-8**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 110 (88 - 117) bpm
   BP: 143/68(86) {123/68(86) - 156/114(125)} mmHg
   RR: 20 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,376 mL
                                                                  1,160 mL
   PO:
                                                                    680 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  3,696 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  3,250 mL
                                                                    850 mL
   Urine:
                                                                  3,250 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,126 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   112 K/uL
   11.4 g/dL
   126 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.1 mEq/L
   6 mg/dL
   102 mEq/L
   132 mEq/L
   34.2 %
   3.4 K/uL
        [image002.jpg]
                             [**2164-2-6**]  09:04 PM
                             [**2164-2-7**]  05:25 AM
                             [**2164-2-7**]  02:18 PM
                             [**2164-2-8**]  05:35 AM
   WBC
   5.5
   5.8
   4.4
   3.4
   Hct
   37.9
   34.3
   35.8
   34.2
   Plt
   143
   118
   112
   Cr
   0.6
   0.5
   0.5
   Glucose
   105
   131
   126
   Other labs: PT / PTT / INR:14.2/64.0/1.2, ALT / AST:84/168, Alk Phos /
   T Bili:116/5.0, Amylase / Lipase:115/144, Differential-Neuts:48.5 %,
   Lymph:42.6 %, Mono:5.8 %, Eos:2.5 %, Lactic Acid:1.8 mmol/L,
   Albumin:4.1 g/dL, LDH:293 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.0
   mg/dL
   Imaging: MRV [**2164-2-7**]:
   Short segment right inferior gonadal vein thrombus. Normal appearance
   and flow
   in the left gonadal vein. The findings were discussed with Dr [**First Name8 (NamePattern2) 443**]
   [**Last Name (NamePattern1) 1499**] by
   Dr [**Last Name (STitle) 11311**] at 5:30 pm on [**2164-2-7**].
   Microbiology: HCV Viral Load [**2164-2-7**]: 2,900,000
   Blood and urine cx from [**2164-2-6**] pending
   Assessment and Plan
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HEPATITIS, CHRONIC VIRAL
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ALCOHOL ABUSE
 PANCREATITIS, ACUTE
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HEPATITIS, CHRONIC VIRAL
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ALCOHOL ABUSE
 PANCREATITIS, ACUTE
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 ANEMIA, ACUTE
 THROMBOCYTOPENIA, ACUTE
   Assessment and Plan
   40 year old woman with a h/o alcoholism c/b DTs/seizures 2 years ago,
   polysubstance abuse including IV heroin, cocaine, crack (last use 2
   years ago), heroin inhalation (last use 2 days ago), hep C, presents
   for voluntary admission for detox.
   .
   # ETOH Withdrawal-given h/o severe DTs/seizures observation in ICU is
   reasonable. Pt requiring more valium however stable overnight.
   Diaphoresis, persistent tachycardia, anxiety, and tremors point to
   insufficiently controlled withdrawl symptoms.
   -Increasing valium from Valium 10mg PO Q2H to Valium 10mg PO Q1H for
   CIWA>10; hold for CIWA<10 or signs of intoxication, low threshold to
   increase dose or switch to IV if pt worsens scores or becomes
   hemodynamically unstable.
   -Continue MVI, Thiamine, Folate
   -Continue Aggressive IVF
   -Replete lytes with close attention to K and Mg
   -SW consult today
   .
   # Ovarian vein thrombosis: Pt at risk given her recent birth and recent
   C-section.
   -F/u  blood cx
   -Continue heparin gtt
   -Continue amp-sulbactam 3gm IV Q6H
   -Obtain MRV today to confirm dx, if negative, would DC abx and heparin.
   If positive, pt would require at least 2 weeks of IV abx and
   anticoagulation.
   .
   # Abdominal pain: Elevated Lipase/Pancreatitis and CT abdomen
   consistent with mild pancreatitis with a Ransen score of 3. However,
   her abdominal pain is lower quadrant. She has other potential reasons
   for pain including heroin withdrawl, biliary disease (although per rads
   no e/o biliary disease on CT), and most intriguing ovarian vein
   thrombosis can p/w lower abdominal pain, N/V.  RUQ negative for e/o
   biliary disease, portal vein thrombosis, but did show e/o early
   cirrhosis.
   -IVF
   -Slowly advance diet starting with clears
   -Pain control with morphine 2-4mg IV Q4H PRN for now, will evaluate
   switching to methadone for more long acting pain based on her prior
   doses
   -F/u U/A with cx
   .
   # Acute anemia: Likely secondary to hemodilution given pt was
   significantly dry. Consider worsening pancreatitis. Consider alcoholic
   gastritis.
   -Active type and screen
   -Guiac all stools
   -Recheck HCT at 1700
   -Starting Pantoprazole 40mg PO Daily
   .
   # Acute thrombocytopenia: Again likely secondary to hemodilution.
   Because she was likely dehydrated this admission we are seeing her true
   values which are low. Chronic thrombocytopenia likely secondary to HCV
   cirrhosis.
   -Recheck platelets at 1700, with low threshold to stop heparin
   .
   # Hep C: Unknown extent.
   -Check viral load
   -Obtaining records from [**Hospital1 587**]
   .
   # Polysubstance abuse:
   -SW consult
   -Check HIV for high risk behavior
   .
   # FEN: NPO, IVF, replete electrolytes
   # Prophylaxis: heparin gtt
   # Access: 2 peripherals
   # Communication: Patient
   # Code:  Confirmed Full (discussed with patient)
   # Disposition: Likely called out to floor tomorrow if stable overnight.
   .
   [**First Name11 (Name Pattern1) 82**] [**Last Name (NamePattern4) 11267**], MD
   PGY-1, [**Pager number 11268**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-2-6**] 08:16 PM
   22 Gauge - [**2164-2-7**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: